US04560806
Preparation of N-methyl-N-(2-diphenylphosphinoethyl) acetamide [PPh2CH2CH2N(CH3)C(O)CH3 ]
A 100 ml 3-necked round bottomed flash was heated to 100° C. under a nitrogen atmosohere and 7.14 g diohenylphosphine (38.4 mmole), 0.15 g 2,2'-azobis (2-methyloropionitrile), and 3.77 g N-vinyl-N-methyl acetamide (38.1 mmole) from Polysciences were added in the stated sequence. The reaction was maintained at 100° C. for 45 minutes under a nitrogen atmosphere and then evacuated (1 mm) for 24 hours at 100° C. A viscuous oil resulted whose infrared spectrum disolayed a strong γ(CO) band at 1645 cm-1 and a small γ(P--H) band at 2300 cm-1 due to a small amount of diphenylphosphine impurity. The elemental analysis was the following: calculated (found); C, 71.58 (69.89); H, 7.02 (7.15); N, 4.91 (4.57); P, 10.87 (10.97). The yield was 94%.

reactant | N-vinyl-N-methyl acetamide | 38.1 mmole, 3.77 g | C(=C)N(C(C)=O)C | C5H9NO
reactant | diphenylphosphine | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
product | N-methyl-N-(2-diphenylphosphinoethyl) acetamide | yield was 94% | CN(C(C)=O)CCP(C1=CC=CC=C1)C1=CC=CC=C1 | C17H20NOP
